US06514964B1
Step B: Benzyl 2-(N-(2-bromophenylmethyl)amino)acetate
To a stirring solution of 2-bromobenzaldehyde in dichloromethane (0.2 M) was added glycine benzyl ester (1.2 eq), sodium triacetoxyborohydride (2 eq) and acetic acid (4 eq). After stirring overnight, the solution was washed with 10% sodium carbonate, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was chromatographed (silica; 30%-40% EtOAc/Hexanes) to afford a pale yellow oil. EI-MS m/z 334, 336 (M+H)+

reactant | 2-bromobenzaldehyde | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | glycine benzyl ester | 1.2 eq | C(C1=CC=CC=C1)OC(CN)=O | C9H11NO2
reactant | sodium triacetoxyborohydride | 2 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 4 eq | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 0.2 M | ClCCl | CH2Cl2
product | Benzyl 2-(N-(2-bromophenylmethyl)amino)acetate | BrC1=C(C=CC=C1)CNCC(=O)OCC1=CC=CC=C1 | C16H16BrNO2
